US06525042B1
At room temperature, methyl 4-bromoacetylbenzoate (1.37 g) and acetylguanidine (1.62 g) were suspended in acetonitrile, followed by heating under reflux for 16 hours. The solvent was then distilled off under reduced pressure. Water was added to the residue. The insoluble matter so precipitated was collected by filtration, followed by washing with ethanol, whereby methyl 4-[2-aminoimidazol-4-yl]benzoate was obtained. The resulting product was dissolved in a mixed solvent of dioxane (10 ml) and 1N hydrochloric acid (10 ml), followed by heating under reflux for 8 hours. The residue obtained by distilling off the solvent was solidified by tetrahydrofuran and then collected by filtration, whereby the title compound (500 mg, 39%) was obtained.

reactant | methyl 4-bromoacetylbenzoate | 1.37 g | BrCC(=O)C1=CC=C(C(=O)OC)C=C1 | C10H9BrO3
reactant | acetylguanidine | 1.62 g | C(C)(=O)NC(=N)N | C3H7N3O
solvent | acetonitrile | C(C)#N | C2H3N
product | methyl 4-[2-aminoimidazol-4-yl]benzoate | NC=1NC=C(N1)C1=CC=C(C(=O)OC)C=C1 | C11H11N3O2
